US04347317
The resting cells mentioned above were dried at a room temperature and dried further in a phosphorus pentoxide desiccator under a vacuum overnight. Fifty mg of the dried cells were put into 2 ml of a reaction mixture containing 10 μmoles ADP, 200 μmoles glucose 250 μmoles phosphate buffer, 5 μmoles MgCl2.6H2O and the amount of the inhibitor shown in Table 5 or 6. The reaction mixture was held at 30° C. for 3 hours, and then heated in boiling water for 3 minutes. ATP formed in the reaction mixture was determined colorimetrically.

reactant | ADP | 10 μmoles | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H15N5O10P2
reactant | glucose | 200 μmoles | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | water | O | H2O
product | ATP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
